US04180670
N-[α-(2-methylphenyl)benzyl]-4-pyridinamine
250 Milliliters of toluene containing 10.8 grams (0.05 mole) of chloro(phenyl-o-tolyl)methane and 14.1 grams (0.15 mole) of 4-aminopyridine were heated under reflux with stirring for 20 hours. The reaction mixture was cooled and the resulting organic layer and solid material were stirred with 2 N hydrochloric acid. The toluene layer was removed and the gummy acidic extracts were basified with 5 N sodium hydroxide. The resulting oil was extracted into toluene and washed with water. After drying over magnesium sulphate, the solvent was removed and the residue was recrystallised from toluene to afford 3.58 grams (31% yield) of the title compound, m.p. 141°-143° C. The product may be recrystallised from a mixture of benzene and light petroleum (b.p. 100°-120° C.).

reactant | toluene | 0.05 mole, 10.8 grams | C1(=CC=CC=C1)C | C7H8
reactant | chloro(phenyl-o-tolyl)methane | ClCC1=C(C=CC=C1C1=CC=CC=C1)C | C14H13Cl
reactant | 4-aminopyridine | 0.15 mole, 14.1 grams | NC1=CC=NC=C1 | C5H6N2
reactant | hydrochloric acid | 2 N | Cl | ClH
product | N-[α-(2-methylphenyl)benzyl]-4-pyridinamine | 3.58 grams, 31% yield | CC1=C(C=CC=C1)C(C1=CC=CC=C1)NC1=CC=NC=C1 | C19H18N2
